US06143762
7-Bromo-1,2,3,4-tetrahydroisoquinoline
A mixture of 7-bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline (G. E. Stokker, Tetrahedron Letters 1996, 37, 5453) (43.4 g, 0.14 mol), potassium carbonate (104.3 g, 0.75 mol), methanol (1 L) and water (150 ml) was heated at reflux for 1 h, then cooled and evaporated in vacuo. Residue was partitioned between water (1 L) and dichloromethane (4×200 ml). Combined extracts were dried (Na2SO4) and evaporated in vacuo to give an oil which was dissolved in hexane. The mixture was filtered and the filtrate evaporated in vacuo to give the title compound as an oil (17.7 g, 60%).

reactant | 7-bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline | 0.14 mol, 43.4 g | BrC1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O | C11H9BrF3NO
reactant | potassium carbonate | 0.75 mol, 104.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 1 L | CO | CH4O
reactant | water | 150 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 7-Bromo-1,2,3,4-tetrahydroisoquinoline | 17.7 g, 60% | BrC1=CC=C2CCNCC2=C1 | C9H10BrN
